### PR TITLE
[Merged by Bors] - feat: Lemma on Monoid Localization and Consequences on Minimal Primes

### PR DESCRIPTION
**Pull request by XavierXarles**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 1]
```diff
@@ -786,8 +786,22 @@ noncomputable def atUnits (H : M ≤ IsUnit.submonoid R) : R ≃ₐ[R] S := by
...
+
 end IsLocalization
 
+
+section
+
+variable [IsLocalization M S] (M) (Q : Type*) [CommSemiring Q] {g : R →+* P} [Algebra P Q]
+
+theorem map_injective_of_injective (hg : Function.Injective g)
+    [i: IsLocalization (M.map g : Submonoid P) Q] :
```
Comment (XavierXarles) [inline Mathlib/RingTheory/Localization/Basic.lean:798]: The variable i is not used in the proof. But if I take it away, then theorem in line 1433 breaks.

Comment (erdOne) [reply Mathlib/RingTheory/Localization/Basic.lean:798]: The proof there should be fixed by something like `haveI : IsLocalization (M.map (algebraMap R S)) Sₘ := i` instead.

Comment (erdOne) [reply Mathlib/RingTheory/Localization/Basic.lean:798]: Or maybe we should make `Algebra.algebraMapSubmonoid` reducible.

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 2]
```diff
@@ -1251,6 +1251,46 @@ theorem map_map {A : Type*} [CommMonoid A] {U : Submonoid A} {R} [CommMonoid R]
 #align submonoid.localization_map.map_map Submonoid.LocalizationMap.map_map
 #align add_submonoid.localization_map.map_map AddSubmonoid.LocalizationMap.map_map
 
+
+/-- Given an injective `CommMonoid` homomorphism `g : M →* P`, and a Submonoid `S ⊆ M`,
+the induced Monoid homomorphism from the Localization of `M` at `S` to the
+Localization of `P` at `g S`, is injective.
+-/
+@[to_additive  " Given an injective `AddCommMonoid` homomorphism `g : M →+ P`, and a
```
Comment (erdOne) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1259]:
```suggestion
@[to_additive "Given an injective `AddCommMonoid` homomorphism `g : M →+ P`, and a
```

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 3]
```diff
@@ -1251,6 +1251,46 @@ theorem map_map {A : Type*} [CommMonoid A] {U : Submonoid A} {R} [CommMonoid R]
...
+Submonoid `S ⊆ M`, the induced AddMonoid homomorphism from the Localization of `M` at `S`
+to the Localization of `P` at `g S`, is injective. "]
+theorem map_injective_of_injective (hg : Injective g)
+    (k : LocalizationMap (Submonoid.map g S) Q) : Injective
+    (map f (apply_coe_mem_map g S) k : N→* Q):= by
```
Comment (alreadydone) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1264]:
```suggestion
    (k : LocalizationMap (Submonoid.map g S) Q) :
    Injective (map f (apply_coe_mem_map g S) k : N →* Q) := by
```

File: Mathlib/RingTheory/Ideal/MinimalPrime.lean [hunk 4]
```diff
@@ -124,6 +125,13 @@ theorem Ideal.exists_comap_eq_of_mem_minimalPrimes_of_injective {f : R →+* S}
   apply IsLocalization.map_units _ (show p.primeCompl from ⟨x, h⟩)
 #align ideal.exists_comap_eq_of_mem_minimal_primes_of_injective Ideal.exists_comap_eq_of_mem_minimalPrimes_of_injective
 
+end
+
+section
+
+variable {R S : Type*} [CommRing R] [CommRing S] {I J : Ideal R}
+
+
```
Comment (alreadydone) [inline Mathlib/RingTheory/Ideal/MinimalPrime.lean:134]:
```suggestion
```

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 5]
```diff
@@ -786,8 +786,22 @@ noncomputable def atUnits (H : M ≤ IsUnit.submonoid R) : R ≃ₐ[R] S := by
 
 end at_units
 
+
 end IsLocalization
 
+
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Basic.lean:792]:
```suggestion
end IsLocalization

```

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 6]
```diff
@@ -1947,7 +1987,7 @@ if `M` is a cancellative monoid with zero, and all elements of `S` are
 regular, then N is a cancellative monoid with zero.  -/
 theorem isLeftRegular_of_le_IsCancelMulZero (f : LocalizationWithZeroMap S N)
     [IsCancelMulZero M] (h : ∀ ⦃x⦄, x ∈ S → IsRegular x): IsCancelMulZero N := by
```
Comment (alreadydone) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1989]:
```suggestion
    [IsCancelMulZero M] (h : ∀ ⦃x⦄, x ∈ S → IsRegular x) : IsCancelMulZero N := by
```

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 7]
```diff
@@ -1947,7 +1987,7 @@ if `M` is a cancellative monoid with zero, and all elements of `S` are
...
-  have:IsLeftCancelMulZero N:=
+  have : IsLeftCancelMulZero N:=
```
Comment (alreadydone) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1990]:
```suggestion
  have : IsLeftCancelMulZero N :=
```

File: Mathlib/RingTheory/Ideal/MinimalPrime.lean [hunk 8]
```diff
@@ -100,6 +100,7 @@ theorem Ideal.sInf_minimalPrimes : sInf I.minimalPrimes = I.radical := by
     exact hI.1.symm
 #align ideal.Inf_minimal_primes Ideal.sInf_minimalPrimes
 
+
```
Comment (alreadydone) [inline Mathlib/RingTheory/Ideal/MinimalPrime.lean:103]:
```suggestion
```

**Review by alreadydone — COMMENTED** [review]
Just pointing out some missing spaces and extraneous blank lines that were not there ...

File: Mathlib/RingTheory/Localization/Basic.lean (hunk 1 above)
Comment (XavierXarles) [reply Mathlib/RingTheory/Localization/Basic.lean]: I changed the proof in line 1433 so that now it works.

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 9]
```diff
@@ -1251,6 +1251,46 @@ theorem map_map {A : Type*} [CommMonoid A] {U : Submonoid A} {R} [CommMonoid R]
...
+    rw [(eq_mk'_iff_mul_eq k).mpr eqz,
+        (eq_mk'_iff_mul_eq k).mpr eqw, LocalizationMap.eq] at hizw
+    exact hizw
+  obtain ⟨c, hc⟩:=
+    (Set.exists_image_iff g S _).mp (exists_apply_eq_apply' Subtype.val d)
+  simp_rw [hc,← map_mul] at hd
+  --- The last step is just applying hg, injectivity of g
+  apply hg at hd
+  use c
+
```
Comment (alreadydone) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1292]: a bit of routine golfs, spacing fixes, parentheses removals:
```suggestion
    (k : LocalizationMap (S.map g) Q) :
    Injective (map f (apply_coe_mem_map g S) k) := fun z w hizw ↦ by
  set i := map f (apply_coe_mem_map g S) k
  have ifkg (a : M) : i (f.toMap a) = k.toMap (g a) := map_eq f (apply_coe_mem_map g S) a
  obtain ⟨x, hx⟩ := surj f z
  obtain ⟨y, hy⟩ := surj f w
  rw [(eq_mk'_iff_mul_eq f).mpr hx, (eq_mk'_iff_mul_eq f).mpr hy, LocalizationMap.eq]
  --- The following is equivalent to `hizw : i z = i w`
  obtain ⟨d, hd⟩ : ∃ d : S.map g, d * (g y.2 * g x.1) = d * (g x.2 * g y.1) := by
    lift g x.2 to S.map g using apply_coe_mem_map g S x.2 with gx2 hgx2
    lift g y.2 to S.map g using apply_coe_mem_map g S y.2 with gy2 hgy2
    have eqz := congrArg i hx
    rw [map_mul, ifkg, ifkg, ← hgx2] at eqz
    have eqw := congrArg i hy
    rw [map_mul, ifkg, ifkg, ← hgy2] at eqw
    rw [(eq_mk'_iff_mul_eq k).mpr eqz, (eq_mk'_iff_mul_eq k).mpr eqw, LocalizationMap.eq] at hizw
    exact hizw
  obtain ⟨c, hc⟩ := (Set.exists_image_iff g S _).mp (exists_apply_eq_apply' Subtype.val d)
  simp_rw [hc, ← map_mul] at hd
  --- The last step is just applying hg, injectivity of g
  exact ⟨c, hg hd⟩
```

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 10]
```diff
@@ -1251,6 +1251,46 @@ theorem map_map {A : Type*} [CommMonoid A] {U : Submonoid A} {R} [CommMonoid R]
...
+to the Localization of `P` at `g S`, is injective. "]
+theorem map_injective_of_injective (hg : Injective g)
+    (k : LocalizationMap (Submonoid.map g S) Q) :
+    Injective (map f (apply_coe_mem_map g S) k : N →* Q) := by
+  rw [Injective]
+  intro z w hizw
+  let i := (map f (apply_coe_mem_map g S) k : N→* Q)
+  have ifkg (a:M): i (f.toMap a) = k.toMap (g a) := map_eq f (apply_coe_mem_map g S) a
+  obtain ⟨x, hx⟩ := surj f z
+  obtain ⟨y, hy⟩ := surj f w
```
Comment (alreadydone) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1270]: I think when working with semirings (where you can't subtract and compare with zero) it's convenient to introduce a `surj₂` lemma that gives you a common denominator for both z and w. The same for `IsLocalization` and `IsLocalizedModule`. Would you like to do that?

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 11]
```diff
@@ -790,6 +790,18 @@ end IsLocalization
 
 section
 
+variable [IsLocalization M S] (M) (Q : Type*) [CommSemiring Q] {g : R →+* P} [Algebra P Q]
+
+theorem map_injective_of_injective (hg : Function.Injective g)
+    [IsLocalization (M.map g : Submonoid P) Q] :
+    Function.Injective (map Q g (Submonoid.le_comap_map M) : S → Q) :=
+  Submonoid.LocalizationMap.map_injective_of_injective (IsLocalization.toLocalizationMap M S) hg
+      (IsLocalization.toLocalizationMap (M.map g : Submonoid P) Q)
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Basic.lean:799]: If you're not planning to add more stuff to this section, you may remove the section and move the `variable` into the theorem statement.
```suggestion
theorem map_injective_of_injective (hg : Function.Injective g) [IsLocalization (M.map g) Q] :
    Function.Injective (map Q g (Submonoid.le_comap_map M) : S → Q) :=
  (toLocalizationMap M S).map_injective_of_injective hg (toLocalizationMap (M.map g) Q)
```

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 12]
```diff
@@ -1434,7 +1428,7 @@ variable (Rₘ Sₘ)
 /-- Injectivity of the underlying `algebraMap` descends to the algebra induced by localization. -/
 theorem localizationAlgebra_injective (hRS : Function.Injective (algebraMap R S)) :
     Function.Injective (@algebraMap Rₘ Sₘ _ _ (localizationAlgebra M S)) :=
-  IsLocalization.map_injective_of_injective (M := M) _ hRS (i := i)
+  @IsLocalization.map_injective_of_injective _ _ M _ _ _ _ _ _ _ _ _ _ hRS i
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Basic.lean:1431]: better as
```suggestion
  have : IsLocalization (M.map (algebraMap R S)) Sₘ := i
  IsLocalization.map_injective_of_injective _ _ _ hRS
```

File: Mathlib/GroupTheory/MonoidLocalization.lean (hunk 10 above)
Comment (XavierXarles) [reply Mathlib/GroupTheory/MonoidLocalization.lean:1268]: Do you mean something like 
```
theorem surj₂ (f : LocalizationMap S N) (z w : N) : ∃ x : M × M × S, 
    (z * f.toMap x.2.2 = f.toMap x.1) ∧  (w * f.toMap x.2.2 = f.toMap x.2.1) := by 
```

Comment (alreadydone) [reply Mathlib/GroupTheory/MonoidLocalization.lean:1268]: Yes! Though I'm not a big fan of using existential over a product, and I think `∃ z' w' : M, ∃ x : S, …` is probably easier to use.

Comment (XavierXarles) [reply Mathlib/GroupTheory/MonoidLocalization.lean:1284]: I added that lemma, but I am not happy with the long proof.

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 13]
```diff
@@ -844,6 +860,12 @@ theorem mk'_cancel (a : M) (b c : S) :
     f.mk' (a * c) (b * c) = f.mk' a b :=
   mk'_eq_of_eq' f (by rw [Submonoid.coe_mul, mul_comm (b:M), mul_assoc])
 
+@[to_additive]
+theorem eq₂ {a b} {d : S} :
+    f.mk' a d = f.mk' b d ↔ ∃ c : S, ↑c * a = c * b := by
+  simp_rw [@Submonoid.LocalizationMap.mk'_eq_iff_eq', @MonoidHom.map_mul, ← eq_iff_exists f]
+  exact IsUnit.mul_left_inj (Submonoid.LocalizationMap.map_units f d)
+
```
Comment (XavierXarles) [inline Mathlib/GroupTheory/MonoidLocalization.lean:868]: I am not sure if the name of the lemma is OK, or it will be better another one.  It is related to the `surj₂` theorem above.

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 14]
```diff
@@ -786,6 +790,16 @@ noncomputable def atUnits (H : M ≤ IsUnit.submonoid R) : R ≃ₐ[R] S := by
 
 end at_units
 
+section
+
+variable (M S) (Q : Type*) [CommSemiring Q] [Algebra P Q]
+
+theorem map_injective_of_injective (h : Function.Injective g) [IsLocalization (M.map g) Q] :
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Basic.lean:797]: The docstring disappeared when you generalized this ...
```suggestion
/-- Injectivity of a map descends to the map induced on localizations. -/
theorem map_injective_of_injective (h : Function.Injective g) [IsLocalization (M.map g) Q] :
```

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 15]
```diff
@@ -1251,6 +1273,31 @@ theorem map_map {A : Type*} [CommMonoid A] {U : Submonoid A} {R} [CommMonoid R]
...
+  let ⟨d, hd⟩ : ∃ d : S.map g, d * g z' = d * g w' := by
+    have eqz := congrArg i hxz
+    rw [map_mul, ifkg, ifkg] at eqz
+    have eqw := congrArg i hxw
+    rw [map_mul, ifkg, ifkg] at eqw
+    rw [hizw.symm, eqz] at eqw
+    exact exists_of_eq k (g z') (g w') (id eqw)
+  let ⟨c, hc⟩ := (Set.exists_image_iff g S _).mp (exists_apply_eq_apply' Subtype.val d)
+  simp_rw [hc, ← map_mul] at hd
+  exact ⟨c, hg hd⟩
```
Comment (alreadydone) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1299]: a more compact proof without using `eq_of_same`:
```suggestion
theorem map_injective_of_injective (hg : Injective g) (k : LocalizationMap (S.map g) Q) :
    Injective (map f (apply_coe_mem_map g S) k) := fun z w hizw ↦ by
  set i := map f (apply_coe_mem_map g S) k
  have ifkg (a : M) : i (f.toMap a) = k.toMap (g a) := map_eq f (apply_coe_mem_map g S) a
  let ⟨z', w', x, hxz, hxw⟩ := surj₂ f z w
  have : k.toMap (g z') = k.toMap (g w')
  · rw [← ifkg, ← ifkg, ← hxz, ← hxw, map_mul, map_mul, hizw]
  obtain ⟨⟨_, c, hc, rfl⟩, eq⟩ := k.exists_of_eq _ _ this
  simp_rw [← map_mul, hg.eq_iff] at eq
  rw [← (f.map_units x).mul_left_inj, hxz, hxw, f.eq_iff_exists]
  exact ⟨⟨c, hc⟩, eq⟩
```

**Review by alreadydone — APPROVED** [review]

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 16]
```diff
@@ -584,6 +584,21 @@ theorem surj (f : LocalizationMap S N) (z : N) : ∃ x : M × S, z * f.toMap x.2
...
+/-- Given a localization map `f : M →* N`, and `z w : N`, there exist `z' w' : M` and `d : S`
+such that `f z' / f d = z` and `f w' / f d = w`. -/
+@[to_additive
+    "Given a localization map `f : M →+ N`, and `z w : N`, there exist `z' w' : M` and `d : S`
+such that `f z' - f d = z` and `f w' - f d = w`."]
+theorem surj₂ (f : LocalizationMap S N) (z w : N) : ∃ z' w' : M, ∃ d : S,
+    (z * f.toMap d = f.toMap z') ∧  (w * f.toMap d = f.toMap w') := by
+  let ⟨a, ha⟩ := surj f z
+  let ⟨b, hb⟩ := surj f w
+  refine ⟨a.1 * b.2 , a.2 * b.1 , a.2 * b.2, ?_, ?_⟩
```
Comment (alreadydone) [inline Mathlib/GroupTheory/MonoidLocalization.lean:596]:
```suggestion
  refine ⟨a.1 * b.2, a.2 * b.1, a.2 * b.2, ?_, ?_⟩
```

**Comment by alreadydone** [comment]
Thanks 🎉 
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
